US08211884B2
This compound was prepared in a similar way as described in literature (Journal of Medicinal Chemistry (2005), 48, 2371). A mixture of 1-fluoro-4-nitro-benzene (2.06 g, 14.7 mmol), [1,4]Diazepane-1-carboxylic acid tert-butyl ester (3.52 g, 17.6 mmol) and potassium carbonate (4.85 g, 35.2 mmol) in DMF (100 mL) was heated to 100° C. and stirred for 2 h. The reaction mixture was diluted with EtOAc (100 mL) and washed with water (100 mL), brine (50 mL), dried with anhydrous sodium sulfate and the solvent was removed. The residue was purified on a flash chromatography column with EtOAc/hexanes to afford 4-(4-nitrophenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester (3.66 g, 78% yield) as a white solid. ES-MS for C16H23N3O4 calcd. (m/e) 321, observed 322 (M+H).

reactant | 1-fluoro-4-nitro-benzene | 14.7 mmol, 2.06 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | [1,4]Diazepane-1-carboxylic acid tert-butyl ester | 17.6 mmol, 3.52 g | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | potassium carbonate | 35.2 mmol, 4.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 4-(4-nitrophenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 3.66 g, 78% yield | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C16H23N3O4
